US07034052B2
To the DMF solution (20 ml) of 3-Amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile (1.55 g, 7 mmol) was added Et3N (1.6 ml, 12 mmol) followed by 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (2.42 g, 7 mmol). The mixture was heated at 90° C. for 12 hrs then cooled to room temperature. The mixture was extracted with EtOAc (50 ml) and water (50 ml). The organic layer was washed with water (50 ml) and brine (50 ml), dried over Na2SO4 and concentrated in vacuo. The resulted oil was purified by silica gel chromatography to give cyclopropanecarboxylic acid {7-chloro-2-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as white solid (2.4 g, 80%): mp 200–202° C.; 1H NMR (CDCl3) δ 0.90–0.94 (m, 2H, c-CH2), 1.09–1.14 (m, 2H, c-CH2), 1.45 (t, J=7.0 Hz, 3H, CH3), 1.64–1.70(m, 1H, c-CH), 3.12–3.32(m, 2H, CH2CN), 3.89(s, 3H), 3.99–4.12 (m, 3H, OCH2CH3+CHNN), 4.37 (d, J=18 Hz, 1H. CHHN), 5.62–5.68 (m, 1H, NCH), 6.87–6.98 (m, 3H, Ar), 7.40 (d, J=9 Hz, 1H, Ar), 8.47 (t, J=9 Hz, 1H, Ar), 10.34 (s, 1H, NH); 13C NMR (CDCl3) δ 8.5, 14.7, 16.2, 21.2, 46.4, 51.8, 56.0, 64.7, 111.7, 112.2, 116.9, 118.4, 119.1, 119.8, 121.9, 127.9, 133.3, 136.9, 138.9, 149.9, 150.0, 169.0, 172.7; Anal Calcd for C24H24ClN3O4: C, 63.50; H, 5.33; N, 9.26. Found: C, 63.43; H, 5.31; N, 9.01

reactant | 3-Amino-3-(3-ethoxy-4-methoxy-phenyl)-propionitrile | 7 mmol, 1.55 g | NC(CC#N)C1=CC(=C(C=C1)OC)OCC | C12H16N2O2
reactant | Et3N | 12 mmol, 1.6 ml | CCN(CC)CC | C6H15N
reactant | 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 7 mmol, 2.42 g | COC(C1=C(C(=CC=C1NC(=O)C1CC1)Cl)CBr)=O | C13H13BrClNO3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | cyclopropanecarboxylic acid {7-chloro-2-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 2.4 g, 80% | ClC=1C=CC(=C2C(N(CC12)C(CC#N)C1=CC(=C(C=C1)OC)OCC)=O)NC(=O)C1CC1 | C24H24ClN3O4
